US06344559B1
7-Chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazoline (10 g) was treated as in Example 1 to give a concentrate containing 7-chloro-2,4-bis(trimethylsilyloxy)quinazoline. To this concentrate were added ethyl chloroacetate (21.70 g) and ethyl bromoacetate (1.70 g), and the reaction was carried out at an internal temperature of 130˜140° C. for 13 hours. This reaction mixture was cooled to ≦70° C. and worked up as in Example 4 to provide ethyl 2-(7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazolin-1-yl)acetate (13.76 g).

reactant | 7-Chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazoline | 10 g | ClC1=CC=C2C(NC(NC2=C1)=O)=O | C8H5ClN2O2
reactant | 7-chloro-2,4-bis(trimethylsilyloxy)quinazoline | ClC1=CC=C2C(=NC(=NC2=C1)O[Si](C)(C)C)O[Si](C)(C)C | C14H21ClN2O2Si2
reactant | ethyl chloroacetate | 21.70 g | ClCC(=O)OCC | C4H7ClO2
reactant | ethyl bromoacetate | 1.70 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 2-(7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazolin-1-yl)acetate | 13.76 g | ClC1=CC=C2C(NC(N(C2=C1)CC(=O)OCC)=O)=O | C12H11ClN2O4
